US06995263B2
d] [2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester
A solution of 2.55 g (8.63 mmol) of [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid in 25 ml of methanol was cooled to −10° C.; 1.88 ml (25.9 mmol) of thionyl chloride were added. The reaction mixture was then stirred at ambient temperature for 2 hours. Subsequently, the solution was stirred with ice water, then extracted with three portions of 50 ml of tert.-butyl methyl ether. The combined organic layers were washed with water, aqueous sodium hydrogen carbonate, brine and dried on anhydrous sodium sulfate. After evaporation of the solvent, 2.6 g (97.3%) of the title compound were obtained as light brown solid.

reactant | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid | 8.63 mmol, 2.55 g | CC1=NC(=CC=C1CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C15H12F3NO2
reactant | thionyl chloride | 25.9 mmol, 1.88 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 25 ml | CO | CH4O
product | [2-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester | 2.6 g, 97.3% | COC(CC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C16H14F3NO2
